US07585885B2
5-Methanesulfonylamino-N-methyl-N-propyl-isophthalamic acid methyl ester
Dissolve 5-amino-N-methyl-N-propyl-isophthalamic acid methyl ester (1.64 g, 6.55 mmol) in dichloromethane (20 mL) and add pyridine (620 mg, 6.88 mmol) and methanesulfonyl chloride (788 mg, 6.88 mmol). Stir at room temperature for 72 h, dilute with dichloromethane, wash with 0.1 N citric acid and saturated aqueous sodium chloride. Dry (magnesium sulfate) and concentrate to give the title compound as an oil.

reactant | 5-amino-N-methyl-N-propyl-isophthalamic acid methyl ester | 6.55 mmol, 1.64 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)N)=O | C13H18N2O3
reactant | pyridine | 6.88 mmol, 620 mg | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 6.88 mmol, 788 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-Methanesulfonylamino-N-methyl-N-propyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)NS(=O)(=O)C)=O | C14H20N2O5S
